US09255090B2
To a mixture of 3-bromo-4-chlorobenzoic acid (1.51 g, 6.4 mmol, 1.00 eq.) in DCM (25 mL) cooled at −5° C., oxalylchlorid (0.8 mL, 9.6 mmol, 1.50 eq.) and 4 drops of DMF were added. The reaction mixture was warmed to r.t. over 20 hours. The mixture was concentrated in vacuo. The resulting oil was dissolved in THF (50 mL) and cooled to −5° C. (Trimethylsilyl)diazomethane solution (2.0 M in hexanes, 7.2 mL, 14.4 mmol, 2.25 eq.) was added and the mixture was allowed to warm to r.t. over 18 hours. The mixture was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 60 fractions of 45 mL, Heptane to Heptane+20% AcOEt) to yield 1-(3-bromo-4-chloro-phenyl)-2-diazo-ethanone as a yellow solid.

reactant | 3-bromo-4-chlorobenzoic acid | 6.4 mmol, 1.51 g, 1.00 eq. | BrC=1C=C(C(=O)O)C=CC1Cl | C7H4BrClO2
reactant | oxalylchlorid | 9.6 mmol, 0.8 mL, 1.50 eq. | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Trimethylsilyl)diazomethane | 14.4 mmol, 2.0 M, 7.2 mL, 2.25 eq. | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 4 drops | CN(C)C=O | C3H7NO
product | 1-(3-bromo-4-chloro-phenyl)-2-diazo-ethanone | BrC=1C=C(C=CC1Cl)C(C=[N+]=[N-])=O | C8H4BrClN2O
